US20010029239A1
A solution of 2,2-dimethyl-5-hydroxy-4-oxobenzo-1,3-dioxin (31.3 g) in N,N-dimethylformamide was added to imidazole (25.3 g) and stirred under an inert atmosphere. Tert-butyidiphenylsilyl chloride (46.6 g) was added dropwise and the mixture stirred at 20° C. for 2 days, then added to water and extracted (ether), washed (water and brine), dried (magnesium sulphate) and evaporated to give 2,2-dimethyl-5-tert-butyidiphenylsilyloxy-4-oxobenzo-1,3-dioxin (71.2 g).

reactant | 2,2-dimethyl-5-hydroxy-4-oxobenzo-1,3-dioxin | 31.3 g | CC1(OC2=C(C(O1)=O)C(=CC=C2)O)C | C10H10O4
reactant | imidazole | 25.3 g | N1C=NC=C1 | C3H4N2
reactant | Tert-butyidiphenylsilyl chloride | 46.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-5-tert-butyidiphenylsilyloxy-4-oxobenzo-1,3-dioxin | 71.2 g | CC1(OC2=C(C(O1)=O)C(=CC=C2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C | C26H28O4Si
